US06451814B1
1-[4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-4-carboxylic Acid
To a solution of 1-[4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-4-carboxylic acid ethyl ester (0.135 g, 0.213 mmol) was dissolved in methanol (5 mL) and sodium hydroxide (0.5 mL, 1N, 0.5 mmol) was added. The mixture was stirred at ambient temperature for thirty minutes and 1N hydrochloric acid (0.55 mL, 0.55 mmol) was added. The solvent was removed and the mixture partitioned between dichloromethane and water. The organic layer was dried over magnesium sulfate and the solvent removed in vacuo to yield the title compound (0.031 g, 0.05 mmol).

reactant | 1-[4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-4-carboxylic acid ethyl ester | 0.213 mmol, 0.135 g | C(C)OC(=O)C1CCN(CC1)C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C31H45N5O7S
reactant | sodium hydroxide | 0.5 mmol, 1N, 0.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.55 mmol, 1N, 0.55 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 1-[4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-4-carboxylic Acid | 0.05 mmol, 0.031 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)N1CCC(CC1)C(=O)O)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C29H41N5O7S
